* C:\Users\linca\Desktop\SuPEr Lab\IMSSDC2024\SPICE\gatedriver\gatedriver.asc
V1 N001 0 5
S1 N003 N002 q1 0 SW1
S2 0 N006 q2 0 SW2
R2 N005 N004 50m
C1 N005 0 150p
V2 q1 0 PULSE(0 5 0 0.1n 0.1n {0.45/f} {1/f})
V3 q2 0 PULSE(0 5 {0.5/f} 0.1n 0.1n {0.45/f} {1/f})
R3 Q 0 1k
B1 Q 0 V=sdt(I(C1))
C2 N001 N003 11p
C3 N003 0 11p
R1 N004 N003 3m
R4 N001 N002 {Rpullup}
R5 N003 N006 {Rpulldown}
XU1 N016 N012 0 EPC8004
I1 0 N012 4
V4 N008 0 40
D1 N012 N008 RB215T-60
XU2 N017 N013 0 EPC2014C
I2 0 N013 4
V5 N009 0 40
D2 N013 N009 RB215T-60
XU3 N015 N011 0 EPC2070
I3 0 N011 4
V6 N007 0 40
D3 N011 N007 RB215T-60
XU4 N028 N025 0 EPC2007C
I4 0 N025 4
V7 N021 0 40
D4 N025 N021 RB215T-60
XU5 N027 N024 0 EPC2214
I5 0 N024 4
V8 N020 0 40
D5 N024 N020 RB215T-60
XU6 N026 N023 0 EPC2035
I6 0 N023 4
V9 N019 0 40
D6 N023 N019 RB215T-60
XU7 N031 N030 0 EPC2051
I7 0 N030 4
V10 N029 0 40
D7 N030 N029 RB215T-60
V11 N010 0 5
S3 N018 N014 q1 0 SW1
S4 0 N022 q2 0 SW2
C4 N010 N018 11p
C5 N018 0 11p
R6 NC_01 N018 3m
R7 N010 N014 {Rpullup}
R8 N018 N022 {Rpulldown}
V12 N016 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V13 N017 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V14 N015 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V15 N026 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V16 N027 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V17 N028 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
V18 N031 0 PULSE(0 5 0 10p 10p {0.5/f} {1/f})
.model D D
.lib C:\Users\linca\Documents\LTspiceXVII\lib\cmp\standard.dio
.param
+f = 50Meg
+Rpullup = 1
+Rpulldown = 1
.model SW1 SW(Ron = 100m Roff = 1Meg Vt = 0.1)
.model SW2 SW(Ron = 100m Roff = 1Meg Vt = 0.1)
.tran 0 {50/f} {45/f} {1/f/200}
* Rth = 8.2\nCiss = \nCoss =
* Rth = 3.6\nCiss = 300 pF\nCoss = 210 pF
* Rth = 3.4\nCiss = 386 pF\nCoss = 123 pF
* Rth = 3.6\nCiss = 220 pF\nCoss = 165 pF
* Rth = 2.7\nCiss = 238 pF\nCoss = 194 pF
* Rth = 6.5\nCiss = 115 pF\nCOss = 90 pF
* Rth = 3.8\nCiss = 297 pF\nCoss = 129 pF
* Top choices:\n \n2051\n2014C\n2070\n \nMaybe 2035?
.lib EPCGanlibrary.lib
.backanno
.end
