* C:\Users\linca\Desktop\SUPER Lab\IMSSDC2024\SPICE\phi_2\Draft1.asc
C1 N002 N001 205p
C2 N002 0 2.26n
L1 N002 N003 2.578µ
R1 N003 0 0.34
V1 N001 0 SINE(0 100 2meg)
C3 N005 P001 296.7p
C4 N005 N007 2.178n
L2 N005 N006 2.578µ
R2 N006 0 0.67
V2 N004 0 SINE(0 100 2meg)
R3 P001 N004 0.1
R4 N007 0 0.1
* .ac dec 100 1meg 4meg
.tran 0 {10000/2meg} {9990/2meg} {1/2meg/200} uic
.backanno
.end
