* C:\Users\linca\Desktop\SuPEr Lab\IMSSDC2024\SPICE\phi_2\phi_2_50MHz.asc
VDC1 12V 0 12
C1 0 N006 {Cmr}
L1 12V DRAIN {Lf} Rser={ESR}
L2 DRAIN N006 {Lmr} Rser={ESR}
C2 DRAIN 0 {Cp}
V1 G1 0 PULSE(0 6 0 0.1N 0.1N {D/FS} {1/FS})
RL OUT 0 50
L3 N003 N004 {LS} Rser={ESR}
V2 N001 0 AC 1
C3 N003 DRAIN 3n
L4 N004 N005 {LM1}
C4 N005 0 {CM1}
L5 N005 OUT {LM2} Rser={ESR}
C5 OUT 0 {CM2}
R1 N001 N002 1m
XU1 G1 DRAIN 0 0 tc tj GaN_LTspice_GS61004B_L3V4P2
V4 P001 0 25
R2 tc P001 10
.param FS=50MEG D=0.3 ESR=0.2
.param LS=17N
.tran 0 {500/FS} {496/FS}
.lib EPCGaNLibrary.lib
.param Lf=50n Lmr=56n Cmr=45p Cp=0p
* .ac dec 3000 10MEG 300MEG
.param LM1=23n CM1=307p LM2=74n CM2=95p
.meas TRAN Pin AVG I(L1)*V(12V)
.meas TRAN Pout AVG I(RL)*V(OUT)
.meas TRAN PG AVG -V(G1)*I(V1)
.meas TRAN EFFICIENCY PARAM POUT/(PIN+PG)
.lib GaN_LTspice_GS61004B_L3V4P2.lib
.backanno
.end
